US04801698
reacting said N4 -(β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine with acetic anhydride in the presence of an acid scavenger to produce N4 -(2,3,5-tri-O-acetyl β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine or, alternatively reacting said N4 -(β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine with phosphoryl chloride in trimethylphosphate at a temperature below about 10° C. to produce N4 -(5-O-phosphono-β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine.

reactant | N4 -(β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine | [C@@H]1([C@H](O)[C@H](O)[C@H](O1)CO)NC1=NC=NC=2N(CN=CC21)N | C11H16N6O4
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | trimethylphosphate | COP(=O)(OC)OC | C3H9O4P
product | N4 -(5-O-phosphono-β-D-ribofuranosyl)pyrimido[4,5-d]pyrimidine-4,8-diamine | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)NC1=NC=NC=2N(CN=CC21)N)O)O | C11H17N6O7P
